US04331669
Preparation of N-(2,6-bis(trifluoromethyl)-4-pyridinyl)-N'-(4-trifluoromethylphenyl)thiourea
A mixture of 4-aminobenzotrifluoride (1.48 g) and 4-isothiocyanato-2,6-bis(trifluoromethyl)pyridine (2.5 g, 0.01 mole) in dry benzene (25 ml) containing several drops of triethylamine was heated under reflux for 7 hours. Removal of the solvent and triethylamine gave the title compound as a colorless solid 2.9 g, m.p. 125°-132° C. Crystallization from benzene furnished a sample, m.p. 132° C.

reactant | 4-aminobenzotrifluoride | 1.48 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | 4-isothiocyanato-2,6-bis(trifluoromethyl)pyridine | 0.01 mole, 2.5 g | N(=C=S)C1=CC(=NC(=C1)C(F)(F)F)C(F)(F)F | C8H2F6N2S
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylamine | several drops | C(C)N(CC)CC | C6H15N
product | N-(2,6-bis(trifluoromethyl)-4-pyridinyl)-N'-(4-trifluoromethylphenyl)thiourea | 2.9 g | FC(C1=NC(=CC(=C1)NC(=S)NC1=CC=C(C=C1)C(F)(F)F)C(F)(F)F)(F)F | C15H8F9N3S
